US07238808B2
5-[5-(4-Chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared 5-(4-chloro-phenyl)-7-ethyl-3-iodo-pyrazolo[1,5-a]pyrimidine (96 mg, 0.25 mmol) and 5-ethynyl-pyridin-2-ylamine (example D.1) (30 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (41 mg, 44%). MS (ISP) 374.3 [(M+H)+]; mp 205–206° C.

reactant | 5-(4-chloro-phenyl)-7-ethyl-3-iodo-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 96 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)CC)N=CC2I | C14H11ClIN3
reactant | 5-ethynyl-pyridin-2-ylamine | 0.25 mmol, 30 mg | C(#C)C=1C=CC(=NC1)N | C7H6N2
product | 5-[5-(4-Chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)CC)N=CC2C#CC=2C=CC(=NC2)N | C21H16ClN5
